US07893060B2
5-Chloro-7-morpholin-4-yl-2-(4-morpholin-4-ylpiperidin-1-ylmethyl)-thiazolo[5,4-d]pyrimidine
Prepared according to the method used in the preparation of 2-(4-azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine using 4-piperidin-4-ylmorpholine in place of 4-azetidin-1-ylpiperidine. The title compound was obtained as a white solid (104 mg, 67%).

reactant | 2-(4-azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine | N1(CCC1)C1CCN(CC1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C18H25ClN6OS
reactant | 4-piperidin-4-ylmorpholine | N1CCC(CC1)N1CCOCC1 | C9H18N2O
product | 5-Chloro-7-morpholin-4-yl-2-(4-morpholin-4-ylpiperidin-1-ylmethyl)-thiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)CN2CCC(CC2)N2CCOCC2)N2CCOCC2 | C19H27ClN6O2S
